US04863958
A solution of 2-(p-fluorobenzoyl)-3-methyl-4-allyl-5-hydroxybenzofuran (1.5 gm; 4.8mmoles) in ethanol (50 mL) was hydrogenated in a Parr apparatus in presence of 10% palladium on carbon. The catalyst was removed by filtration and the filtrate was concentrated to dryness. The residue was chromatographed on silica gel using 20% ethylacetate in hexane as eluent to yield 600 mg (42%) of 2-(p-fluorobenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran, mp 121°-123° C.

reactant | 2-(p-fluorobenzoyl)-3-methyl-4-allyl-5-hydroxybenzofuran | 4.8mmoles, 1.5 gm | FC1=CC=C(C(=O)C=2OC3=C(C2C)C(=C(C=C3)O)CC=C)C=C1 | C19H15FO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(p-fluorobenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran | 600 mg, 42% | FC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)O)CCC)C=C1 | C19H19FO2
